US07964755B2
British patent No. 914 047 (publ. 28.12.62) describes the condensation of vanillin with acetylacetone in the presence of 2 mole equivalents of trialkyl borates and 0.35 molequivalents boric oxide to give curcumin with yields from 16-80% of the theory. Best results (80% yield) at room temperature were obtained in ethyl acetate as solvent with 2 molequivalents tri-isopropyl borate in the presence of 0.35 molequivalent of boric anhydride and 0.1 molequivalent butylamine (Pabon, H. J. J., Recueil 83, 379-386 [1964]). However, the purity of the curcumin is not mentioned.

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | curcumin | 80% yield | COC1=CC(=CC=C1O)\C=C\C(=O)CC(=O)\C=C\C1=CC=C(O)C(OC)=C1 | C21H20O6
